US04443449
A mixture of 1-[1-(3,4-dichlorophenyl)cyclobutyl]butan-2-one (4.3 g) prepared as described above, hydroxylamine sulphate (2.65 g), sodium acetate (4.0 g), industrial methylated spirit (56 ml) and water (23 ml) was stirred at ambient temperature for sixteen hours. The reaction mixture was extracted with ether. The ether extract was washed with water, dried and evaporated to give a solid which was recrystallised from petroleum ether (b.p. 80°-100° C.) to give 1-[1-(3,4-dichlorophenyl)cyclobutyl]butan-2-one oxime (m.p. 106°-110° C.).

reactant | 1-[1-(3,4-dichlorophenyl)cyclobutyl]butan-2-one | 4.3 g | ClC=1C=C(C=CC1Cl)C1(CCC1)CC(CC)=O | C14H16Cl2O
reactant | hydroxylamine sulphate | 2.65 g | S(=O)(=O)(O)O.NO
reactant | sodium acetate | 4.0 g | C(C)(=O)[O-].[Na+]
solvent | water | 23 ml | O | H2O
product | 1-[1-(3,4-dichlorophenyl)cyclobutyl]butan-2-one oxime | ClC=1C=C(C=CC1Cl)C1(CCC1)CC(CC)=NO | C14H17Cl2NO
